US08114868B2
To a solution of 3-(3-((S)-1-(4-bromophenyl)ethyl)-6-isopropyl-2-oxo-1,3-oxazinan-6-yl)propanoic acid (41 mg, 0.1 mmol) in MeOH (10 mL) was added SOCl2 (5 mL) at 0° C. The reaction mixture was stirred at room temperature for 2 h, concentrated, and purified by preparative TLC to give methyl 3-(3-((S)-1-(4-bromophenyl)ethyl)-6-isopropyl-2-oxo-1,3-oxazinan-6-yl)propanoate (42 mg, 96% yield).

reactant | 3-(3-((S)-1-(4-bromophenyl)ethyl)-6-isopropyl-2-oxo-1,3-oxazinan-6-yl)propanoic acid | 0.1 mmol, 41 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(OC(CC1)(C(C)C)CCC(=O)O)=O | C18H24BrNO4
reactant | SOCl2 | 5 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 10 mL | CO | CH4O
product | methyl 3-(3-((S)-1-(4-bromophenyl)ethyl)-6-isopropyl-2-oxo-1,3-oxazinan-6-yl)propanoate | 42 mg, 96% yield | BrC1=CC=C(C=C1)[C@H](C)N1C(OC(CC1)(C(C)C)CCC(=O)OC)=O | C19H26BrNO4
